US08877782B2
N-Cyclohexyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 8b, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) was converted, using cyclohexylamine instead of methylamine, to the title compound (126 mg, 100%) which was obtained as a white solid. MS: m/e=392.3 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | N-Cyclohexyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 126 mg, 100% | C1(CCCCC1)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C23H25N3O3
